US08013166B2
4-{4′-[(6-Chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-4-oxo-2-(2-phenylethyl)butanoic acid
This compound was prepared from methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate (78 mg, 0.20 mmol), 2,6-dichloro-1,3-benzothiazole (61.6 mg, 0.30 mmol) in a similar manner to the method described for 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenylyl-4-yl]-2,2-dimethyl-4-oxobutanoic acid, providing 26.7 mg (25%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 10.80 (br s, 1H), 7.75-8.05 (m, 9H), 7.60 (d, 1H), 7.10-7.40 (m, 6H), 3.50 (q, 1H), 3.10 (m, 1H), 2.85 (m, 1H), 2.65 (m, 2H), 1.80 (m, 2H). LC-MS m/z 541.3 (MH+), ret. time 4.07 min.

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | 0.20 mmol, 78 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)CCC1=CC=CC=C1)=O | C25H25NO3
reactant | 2,6-dichloro-1,3-benzothiazole | 0.30 mmol, 61.6 mg | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
product | 4-{4′-[(6-Chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-4-oxo-2-(2-phenylethyl)butanoic acid | 26.7 mg, 25% | ClC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)CCC2=CC=CC=C2)=O)C=C1 | C31H25ClN2O3S
